US09212182B2
Intermediate DV: (4,4-difluorocyclohexyl)zinc(II) iodide
The title compound was prepared in an analogous manner to tetrahydro-2H-pyran-4-yl)zinc(II) iodide except that 4,4-difluorocyclohexanol (Affinity Chemicals) was used instead of tetrahydro-2H-pyran-4-ol in Step 1 to afford a 0.26 M solution of (4,4-difluorocyclohexyl)zinc(II) iodide in THF.

reactant | zinc(II) iodide | [I-].[Zn+2].[I-]
reactant | 4,4-difluorocyclohexanol | FC1(CCC(CC1)O)F | C6H10F2O
solvent | THF | C1CCOC1 | C4H8O
product | (4,4-difluorocyclohexyl)zinc(II) iodide | [I-].FC1(CCC(CC1)[Zn+])F | InChI=1S/C6H9F2.HI.Zn/c7-6(8)4-2-1-3-5-6;;/h1H,2-5H2;1H;/q;;+1/p-1
